US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 4,4,5,5-tetramethyl-2-(4-nitrophenyl)-1,3,2-dioxaborolane (144.4 mg, 0.58 mmol, 2.00 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) afforded 27 mg (24%) of 3-(4-nitrophenyl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4,4,5,5-tetramethyl-2-(4-nitrophenyl)-1,3,2-dioxaborolane | 0.58 mmol, 144.4 mg, 2.00 equiv | CC1(OB(OC1(C)C)C1=CC=C(C=C1)[N+](=O)[O-])C | C12H16BNO4
product | 3-(4-nitrophenyl)-2-phenylquinoxaline-6-carboxylic acid | 27 mg, 24% | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C21H13N3O4
